US05998432
Step 1E: (S)-1-(2-Azabicyclo[2.2.2]oct-2-yl)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]-pyridin-5-yl]-2-methylpropan-1-one
PyBOP (1.51 g, 2.89 mmol) was added to a stirred mixture of (S)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo-[2,3-b]pyridin-5-yl]-2-methylpropanoic acid (1.20 g, 2.63 mmol), isoquinuclidine.HCl (0.78 g, 5.26 mmol) and triethylamine (1.47 mL, 10.5 mmol) in CH2Cl2 (26 mL) at ambient temperature. After approximately 12 h, the reaction mixture was poured into water/brine (1:1) and extracted with ethyl acetate (×3). The combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (gradient eluton; 60-75% ethyl acetate/hexanes as eluent) to give the title compound as a colourless foam (1.37 g, 95% overall).

reactant | PyBOP | 2.89 mmol, 1.51 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | (S)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo-[2,3-b]pyridin-5-yl]-2-methylpropanoic acid | 2.63 mmol, 1.20 g | C(C1=CC=CC=C1)OC[C@@H](C)C1=C(NC2=NC=C(C=C21)C(C(=O)O)(C)C)C2=CC(=CC(=C2)C)C | C29H32N2O3
reactant | isoquinuclidine | C1CC2CCC1CN2 | C7H13N
reactant | HCl | 5.26 mmol, 0.78 g | Cl | ClH
reactant | triethylamine | 10.5 mmol, 1.47 mL | C(C)N(CC)CC | C6H15N
reactant | water brine | O.[Cl-].[Na+].O
solvent | CH2Cl2 | 26 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(2-Azabicyclo[2.2.2]oct-2-yl)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]-pyridin-5-yl]-2-methylpropan-1-one | 1.37 g, 95% | C12N(CC(CC1)CC2)C(C(C)(C)C=2C=C1C(=NC2)NC(=C1[C@@H](COCC1=CC=CC=C1)C)C1=CC(=CC(=C1)C)C)=O | C36H43N3O2
